US06875765B2
(ref. E. Jacobsen, el al; JACS 1991, 7064.) The (Z)-1-(1-naphthyl)-propene (2.06 g, 0.012 mol) was dissolved in methylene chloride, and (R, R)-Jacobsen's catalyst (0.168 g) was added, then cooled to 6° C., and a bleach solution (10 mL, buffered to pH=11.3 with disodium hydrogen phosphate) was added. After 6 h at 6° C., the layers were separated, and the aqueous layer washed with ether. The combined organic layers were washed with water, then brine, dried over magnesium sulfate, filtered and rotovapped. The crude product was chromatographed on silica using 5% ether/pentane, to give the desired (1R, 2S)-1-(1-naphthyl)-1-propene oxide (0.421 g). NMR (CDCl3) 8.1-7.7 (3H, m), 7.6-7.3 (4H, m), 4.6-4.5 (1H, m), 3.7-3.5 (1H, m), 1.0 (3H, d, J=5.3 Hz).

reactant | (Z)-1-(1-naphthyl)-propene | 0.012 mol, 2.06 g | C1(=CC=CC2=CC=CC=C12)\C=C/C | C13H12
reactant | disodium hydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1R, 2S)-1-(1-naphthyl)-1-propene oxide | 0.421 g | C1(=CC=CC2=CC=CC=C12)[C@@H]1[C@H](C)O1 | C13H12O
